US06207686B1
To a solution of benzyl (2RS,3RS)-2-(1,4-benzodioxan-6-yl)-3-hydroxyheptanoate (720 mg) in methanol (10 ml) was catalytically reduced with 10% palladium on carbon (100 mg) under 3 atmospheric pressure of hydrogen for 1 hour. The catalyst was removed by filtration and the filtrate was evaporated to afford (2RS,3RS)-2-(1,4-benzodioxan-6-yl)-3-hydroxyheptanoic acid (521 mg).

reactant | benzyl (2RS,3RS)-2-(1,4-benzodioxan-6-yl)-3-hydroxyheptanoate | 720 mg | O1CCOC2=C1C=CC(=C2)C(C(=O)OCC2=CC=CC=C2)C(CCCC)O | C22H26O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | (2RS,3RS)-2-(1,4-benzodioxan-6-yl)-3-hydroxyheptanoic acid | 521 mg | O1CCOC2=C1C=CC(=C2)C(C(=O)O)C(CCCC)O | C15H20O5
